### PR TITLE
Full node happens before dependencies are observed and refactorings

### PR DESCRIPTION
**Pull request by traiansf**

### CODE REVIEW

File: theories/VLSM/Core/MessageDependencies.v [hunk 1]
```diff
@@ -203,14 +182,46 @@ Lemma msg_dep_full_node_reflects_has_been_observed
...
-    has_been_observed X s m ->
-    has_been_observed X s dm.
+    has_been_observed X s m -> has_been_observed X s dm.
 Proof.
   intros dm m Hdm [Hsent|Hreceived].
   - eapply msg_dep_has_been_sent; eassumption.
   - eapply full_node_has_been_received; eassumption.
 Qed.
 
+(** Under full-node assumptions, [msg_dep_happens_before] reflects the [has_been_observed] predicate.
```
Comment (palmskog) [inline theories/VLSM/Core/MessageDependencies.v:192]:
```suggestion
(** Under full-node assumptions, [msg_dep_happens_before] is equivalent to the [has_been_observed] predicate.
```
"Reflection" has a specific meaning in Coq, so we may want to avoid using it unless that's what we mean.

**Review by palmskog — APPROVED** [review]
Looks like reasonable proof refactorings and lemma additions.

**Review by wkolowski — COMMENTED** [review]
Looks good, I will commit some cosmetic changes.
